US08633208B2
4-(2-methyl-1H-imidazol-1-yl)-2-cyanoaniline
SnCl2.2H2O (60.0 g; 0.26 mol) was dissolved in 37% HCl (100 mL), to this solution cooled to −10° C., 4-(2-methyl-1H-imidazol-1-yl)-2-cyano-nitrobenzene (12.0 g, 50 mmol) was added in two portions over the course of 30 min. Completed the additions the stirred reaction mixture was allowed to come to r.t., and after further 45 min. stirring, it was poured in ice/water (250 g) and 3N KOH (500 mL). The resulting suspension was filtered and the cake washed with water. The residue was suspended in 2M NH3/EtOH (250 mL), stirred for a few minutes and filtered, the filtrate was concentrated to provide the titled compound as a brown solid (8 g, 78%). C11H10N4, MW: 198.23. MS: m/z 199 (M+1). 1H-NMR (300 MHz, CDCl3) ppm: 2.21 (s, 3H), 4.70 (s, 2H), 6.79 (d, 1H), 6.97 (d, 1H), 7.22 (dd, 1H), 7.29 (d, 1H).

reactant | SnCl2.2H2O | 0.26 mol, 60.0 g | O.O.Cl[Sn]Cl
reactant | 4-(2-methyl-1H-imidazol-1-yl)-2-cyano-nitrobenzene | 50 mmol, 12.0 g | CC=1N(C=CN1)C1=CC(=C(C=C1)[N+](=O)[O-])C#N | C11H8N4O2
solvent | HCl | 100 mL | Cl | ClH
solvent | KOH | 3N, 500 mL | [OH-].[K+]
product | 4-(2-methyl-1H-imidazol-1-yl)-2-cyanoaniline | 8 g, 78% | CC=1N(C=CN1)C1=CC(=C(N)C=C1)C#N | C11H10N4
